US06498251B1
Synthesis Example 47d 4-Indan-1-yl-piperidine Monohydrochloride
Ethanol (20 ml), concentrated hydrochloric acid (0.5 ml) and platinum oxide (50 mg) were added to 1-hydroxy-1-pyridin-4-yl-indane (540 mg, 2.6 mmol), and catalytic reduction was carried out at ordinary temperature under ordinary pressure to obtain 420 mg (2.1 mmol, 62% in yield) of the title compound as crystals.

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | 1-hydroxy-1-pyridin-4-yl-indane | 2.6 mmol, 540 mg | OC1(CCC2=CC=CC=C12)C1=CC=NC=C1 | C14H13NO
catalyst | platinum oxide | 50 mg | [Pt]=O
solvent | Ethanol | 20 ml | C(C)O | C2H6O
product | 4-Indan-1-yl-piperidine Monohydrochloride | Cl.C1(CCC2=CC=CC=C12)C1CCNCC1 | InChI=1S/C14H19N.ClH/c1-2-4-13-11(3-1)5-6-14(13)12-7-9-15-10-8-12;/h1-4,12,14-15H,5-10H2;1H
